US08609653B2
A solution of 2-amino-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indole-3-carbonitrile (3 g, 14.91 mmol) in acetic anhydride (24 ml, 254 mmol) was stirred at rt for 2.5 hours. The precipitate was filtered, washed with Ac2O, and dried to give N-(3-cyano-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indol-2-yl)acetamide (2.5948 g, 10.66 mmol, 71.5% yield) as white solid. The filtrate was concentrated, suspended with Et2O, stirred, and filtered to give additional product (690 mg, 2.84 mmol, 19.03% yield) as light brown solid: 1H NMR (400 MHz, CHLOROFORM-d) δ=7.22 (br. s., 2 H), 2.98-2.86 (m, 1 H), 2.56 (t, J=5.9 Hz, 2 H), 2.49 (t, J=5.9 Hz, 2 H), 2.22 (s, 3 H), 1.88-1.65 (m, 4 H), 1.01-0.89 (m, 2 H), 0.88-0.76 (m, 2 H).

reactant | 2-amino-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indole-3-carbonitrile | 14.91 mmol, 3 g | NC=1N(C=2CCCCC2C1C#N)C1CC1 | C12H15N3
reactant | acetic anhydride | 254 mmol, 24 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(3-cyano-1-cyclopropyl-4,5,6,7-tetrahydro-1H-indol-2-yl)acetamide | 10.66 mmol, 2.5948 g, 71.5% yield | C(#N)C1=C(N(C=2CCCCC12)C1CC1)NC(C)=O | C14H17N3O
